US03965101
A mixture of 14.0 g of 2-amino-1-[(2-bromo-4-chlorophenoxy)methyl]pyrimidinium chloride, 11.1 g of micronized, anhydrous potassium carbonate, 0.4 g of copper bronze, and 350 ml of anhydrous n-propanol is stirred and heated under reflux for about eight hours, filtered hot, and the deep yellow filtrate is concentrated to dryness in vacuo. Workup gives about 6.8 g of 2-chloro-6H-pyrimido[1,2-c] [1,3,5]-benzoxadiazepine.

reactant | 2-amino-1-[(2-bromo-4-chlorophenoxy)methyl]pyrimidinium chloride | 14.0 g | [Cl-].NC1=[N+](C=CC=N1)COC1=C(C=C(C=C1)Cl)Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | copper bronze | 0.4 g | [Cu] | Cu
solvent | n-propanol | 350 ml | C(CC)O | C3H8O
product | 2-chloro-6H-pyrimido[1,2-c] [1,3,5]-benzoxadiazepine | about 6.8 g | ClC1=NC=2N(COC3=C(N2)C=CC=C3)C=C1 | C11H8ClN3O
